US04263309
(c) 2-Acetamido-3-amino-6,7-dimethyl-1,4-naphthoquinone
Dry ammonia was passed through a stirred refluxing solution of 2-acetamido-3-bromo-6,7-dimethyl-1,4-naphthoquinone (7.5 g) in nitrobenzene (50 ml) for 1 hr. and the mixture cooled. The red solid which separated was filtered off, washed well with ether-petrol and then water to give 4.46 g. (77%) of material of mp 212°-216° C. Recrystallisation from ethanol raised the melting point to 216° C., ν max(mull), 3400, 3270, 1675, 1665, 1630 cm-1. δ (DMSO) 2.05 (3H,s); 2.35 (6H,s); 6.64 (2H, exchangeable s); 7.71(2H,s); 9.00 (1H, exchangeable s.) (Found; C, 65.07; H, 5.43; N, 10.66; C14H14N2O3 requires; C, 65.10; H, 5.46; N, 10.85%).

reactant | ammonia | N | H3N
reactant | 2-acetamido-3-bromo-6,7-dimethyl-1,4-naphthoquinone | 7.5 g | C(C)(=O)NC=1C(C2=CC(=C(C=C2C(C1Br)=O)C)C)=O | C14H12BrNO3
solvent | nitrobenzene | 50 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2-Acetamido-3-amino-6,7-dimethyl-1,4-naphthoquinone | C(C)(=O)NC=1C(C2=CC(=C(C=C2C(C1N)=O)C)C)=O | C14H14N2O3
